US06417388B1
Preparation of 5-methylhex-5-en-2,3-dione 3-(O-methyloxime) 2-oxime
283.4 g of 5-methylhex-5-ene-2,3-dione 3-(O-methyloxime) in 800 ml of methanol were added dropwise to the solution of 140.6 g of hydroxylammonium chloride in 400 ml of water and 216.7 g of pyridine, and the mixture was stirred at 23° C. for 3 hours. The solvent was then removed under reduced pressure and the residue was poured into ice-water. The pH was subsequently adjusted to 1 using 20% strength sulfuric acid, and the precipitated product was filtered off with suction, taken up in methyl tert-butyl ether and washed with water. The organic phase was then dried over sodium sulfate and the solvent was removed under reduced pressure. This gave 266 g of the title compound as a colorless solid.

reactant | 5-methylhex-5-ene-2,3-dione 3-(O-methyloxime) | 283.4 g | CON=C(C(C)=O)CC(=C)C | C8H13NO2
reactant | hydroxylammonium chloride | 140.6 g | [Cl-].O[NH3+]
solvent | methanol | 800 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
solvent | pyridine | 216.7 g | N1=CC=CC=C1 | C5H5N
product | 5-methylhex-5-en-2,3-dione 3-(O-methyloxime) 2-oxime | CON=C(C(C)=NO)CC(=C)C | C8H14N2O2
